US04097477
A mixture of 200 mg of 3β-acetoxy-21-hydroxypregn-5-en-20-one, 10 ml of dimethyl malonate and 2.0 g of calcium chloride was heated in an oil-bath having a temperature of 84° C. for 4 days under nitrogen whereupon 20 ml of toluene was added. The reaction was then arranged for distillation at atmospheric pressure and the bath temperature was raised to 160° C. during 1.5 hours. Subsequently the temperature of the bath temperature was lowered to 84° and the mixture was subjected to distillation at high vacuum for 1.5 hours. The resulting solid residue was dissolved in 15 ml of ether, 2.5 ml of hexane and some charcoal was added. Filtration through diatomaceous earth, followed by concentration of the filtrate with intermittent addition of hexane and ether gave a suspension which after filtration gave 3β-acetoxy-21-[methoxycarbonyl]acetoxy-pregn-5-en-20-one.

reactant | 3β-acetoxy-21-hydroxypregn-5-en-20-one | 200 mg | C(C)(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H](C(CO)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C23H34O4
reactant | dimethyl malonate | 10 ml | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | calcium chloride | 2.0 g | [Cl-].[Ca+2].[Cl-]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3β-acetoxy-21-[methoxycarbonyl]acetoxy-pregn-5-en-20-one | C(C)(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H](C(COC(CC(=O)OC)=O)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C27H38O7
